US08895558B2
A mixture of 3-(piperazin-1-yl)benzo[d]isothiazole (1.75 g, 8.0 mmol), N-(3-bromopropyl)-phthalimide (1.96 mmol, 7.3 mmol) and K2CO3 (2.21 g, 16.0 mol) in DMF (10 mL) was stirred at 80° C. for 3 hours. The reaction mixture was poured into water (100 mL) and extracted with ethyl acetate (150 mL). The organic phase was dried over MgSO4 and evaporated under vacuum. The residue was further purified by flash column chromatography to provide 2-(3-(4-(benzo[d]isothiazol-3-yl)piperazin-1-yl)propyl)isoindoline-1,3-dione as an intermediate (1.49 g, 3.67 mmol, 50%).

reactant | 3-(piperazin-1-yl)benzo[d]isothiazole | 8.0 mmol, 1.75 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | N-(3-bromopropyl)-phthalimide | 1.96 mmol | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | K2CO3 | 16.0 mol, 2.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(benzo[d]isothiazol-3-yl)piperazin-1-yl)propyl)isoindoline-1,3-dione | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCN2C(C1=CC=CC=C1C2=O)=O | C22H22N4O2S
